US06166006
Under argon atmosphere, a mixture of methyl 7-bromo-2,3-dihydro-1-benzothiepine-4-carboxylate (1.5 g), 4-methoxyphenyl borate (0.84 g) and potassium carbonate (1.39 g) in toluene/ethanol/water (50/5/5 ml) was stirred at room temperature for 1 hour. To the mixture was added tetrakistriphenylphosphine palladium (0.17 g), and the mixture was refluxed for 24 hours and then cooled. The mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was purified with column chromatography (ethyl acetate/hexane=1:15 1:9 1:4 1:2) to give pale yellow crystals of methyl 7-(4-methoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate (1.40 g).

reactant | methyl 7-bromo-2,3-dihydro-1-benzothiepine-4-carboxylate | 1.5 g | BrC=1C=CC2=C(C=C(CCS2)C(=O)OC)C1 | C12H11BrO2S
reactant | 4-methoxyphenyl borate | 0.84 g | B(OC1=CC=C(C=C1)OC)([O-])[O-]
reactant | potassium carbonate | 1.39 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 5 ml | C1(=CC=CC=C1)C.C(C)O.O
product | methyl 7-(4-methoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate | 1.40 g | COC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2)C(=O)OC)C1 | C19H18O3S
